US06878827B2
2-(2-aminothiazole-4-yl)-2-acetoxyiminoacetic acid dihydrate (syn-isomer) (20.0 g) was suspended in acetone (200 ml) and stirred, and heated and refluxed at 55 to 56° C. for one hour. After the mixture was cooled to 5° C., the crystal was filtered and washed with acetone, and dried under reduced pressure to obtain 2-(2-aminothiazole-4-yl)-2-acetoxyiminoacetic acid anhydrous crystal (16.4 g).

reactant | 2-(2-aminothiazole-4-yl)-2-acetoxyiminoacetic acid dihydrate | 20.0 g | O.O.NC=1SC=C(N1)C(C(=O)O)=NOC(C)=O
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 2-(2-aminothiazole-4-yl)-2-acetoxyiminoacetic acid | 16.4 g | NC=1SC=C(N1)C(C(=O)O)=NOC(C)=O | C7H7N3O4S
